US08048878B2
Synthesis of (3S,8aR)-3-(2,4,6-trifluorophenyl)-2,3,6,8a-tetrahydro-1H-indolizin-5-one
A solution of ethyl (E)-3-[(2R,5S)-1-(3-butenoyl)-5-(2,4,6-trifluorophenyl)pyrrolidin-2-yl]acrylate (1.35 g) and Grubbs catalyst 2nd generation (155 mg) in methylene chloride (70 mL) was heated under reflux for two hours. The reaction solution was left to cool to room temperature. Then, triethylamine (0.5 mL) was added to the reaction solution, and the mixture was stirred for one hour. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (heptane->heptane:ethyl acetate=1:1->ethyl acetate) to obtain 548 mg of the title compound. The property value of the compound is as follows.

reactant | ethyl (E)-3-[(2R,5S)-1-(3-butenoyl)-5-(2,4,6-trifluorophenyl)pyrrolidin-2-yl]acrylate | 1.35 g | C(CC=C)(=O)N1[C@H](CC[C@H]1C1=C(C=C(C=C1F)F)F)/C=C/C(=O)OCC | C19H20F3NO3
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
catalyst | Grubbs catalyst 2nd generation | 155 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | (3S,8aR)-3-(2,4,6-trifluorophenyl)-2,3,6,8a-tetrahydro-1H-indolizin-5-one | 548 mg | FC1=C(C(=CC(=C1)F)F)[C@@H]1CC[C@@H]2C=CCC(N12)=O | C14H12F3NO
